US06498156B2
a) tert-Butyl 3-[2-(2-{2-[2-(2-tert-butoxycarbonylethoxy)ethoxy]ethoxy}ethoxy)-ethoxy]propionate (39)
0.4 g of sodium is added to a solution of 91 g of tetraethylene glycol in 250 ml of tetrahydrofuran, and the mixture is stirred at room temperature. Once the sodium has dissolved, 145 ml of tert-butyl acrylate are added. The mixture is stirred for 12 h. The reaction solution is neutralized with ammonium chloride, concentrated, taken up in aqueous sodium chloride solution and extracted with ethyl acetate. The organic phase is concentrated. The residue is 39.

reactant | sodium | 0.4 g | [Na] | Na
reactant | tetraethylene glycol | 91 g | C(COCCOCCOCCO)O | C8H18O5
reactant | tert-butyl acrylate | 145 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-[2-(2-{2-[2-(2-tert-butoxycarbonylethoxy)ethoxy]ethoxy}ethoxy)-ethoxy]propionate | C(C)(C)(C)OC(=O)CCOCCOCCOCCOCCOCCC(=O)OC(C)(C)C | C22H42O9
